US08283353B2
1-benzyl-N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine
To a solution of 1-benzyl-1H-pyrazol-5-amine (43.3 g) in acetic acid (500 mL) was added 1,4-dioxaspiro[4.5]decan-8-one (47 g) at room temperature, and the mixture was stirred for 30 min. Sodium triacetoxyborohydride (64 g) was added by small portions at room temperature, and the mixture was stirred for 18 hr. Acetic acid was evaporated, and ethyl acetate and water were added to the residue. The mixture was neutralized with sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was dissolved in a small amount of ethyl acetate, and the mixture was crystallized using diisopropyl ether. The resulting solid was collected by filtration, washed with diisopropyl ether, and dried under reduced pressure to give the title compound as a pale-yellow solid (61 g, 78%).

reactant | 1-benzyl-1H-pyrazol-5-amine | 43.3 g | C(C1=CC=CC=C1)N1N=CC=C1N | C10H11N3
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 47 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | Sodium triacetoxyborohydride | 64 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | 1-benzyl-N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine | 61 g, 78% | C(C1=CC=CC=C1)N1N=CC=C1NC1CCC2(OCCO2)CC1 | C18H23N3O2
